US04226771
7-Chloro-5-(2-fluorophenyl)-N-hydroxy-α-nitro-3H-1,4-benzodiazepine-2-methanimine
Sodium nitrite, 5 g (0.072 mole), was added in portions over a period of 5 min to a solution of 20 g (0.06 mole) of 7-chloro-1,3-dihydro-5-(2-fluorophenyl)-2-nitromethylene-2H-1,4-benzodiazepine* in 100 ml of glacial acetic acid. Following the addition, the reaction mixture was stirred at room temperature for 15 min. The product, which crystallized partially during this period, was further precipitated by slow addition of 50 ml of water and collected by filtration. The crystals were washed with water, sucked dry and washed with methanol/ether to leave light yellow product. The filtrate was diluted with water and extracted with methylene chloride. The extracts were washed with water, dried and evaporated. Crystallization of the residue from methylene chloride/hexane yielded additional product. The analytical sample was recrystallized from ether to give pale yellow crystals with mp 220°-230° C. dec.

reactant | Sodium nitrite | N(=O)[O-].[Na+]
reactant | 7-chloro-1,3-dihydro-5-(2-fluorophenyl)-2-nitromethylene-2H-1,4-benzodiazepine | 0.06 mole, 20 g | ClC=1C=CC2=C(C(=NCC(N2)=C[N+](=O)[O-])C2=C(C=CC=C2)F)C1 | C16H11ClFN3O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 7-Chloro-5-(2-fluorophenyl)-N-hydroxy-α-nitro-3H-1,4-benzodiazepine-2-methanimine | ClC=1C=CC2=C(C(=NCC(=N2)C(=NO)[N+](=O)[O-])C2=C(C=CC=C2)F)C1 | C16H10ClFN4O3
